US07932271B2
N-(2-Aminoethyl)-6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]thionicotinamide
To an ethanol (3 ml) solution of t-butyl[2-[[6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridine-3-carbothioyl]amino]ethyl]carbamate (80 mg, 0.137 mmol) was added concentrated hydrochloric acid (2 ml). The resulting mixture was stirred at room temperature for 20 minutes. The reaction mixture was concentrated under reduced pressure. To the residue thus obtained was added ethanol, followed by concentration. This operation was conducted three times to give the title compound (76 mg, 0.137 mmol, quant.) as a 1.75 hydrochloride (yellow powder).

reactant | t-butyl[2-[[6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridine-3-carbothioyl]amino]ethyl]carbamate | 0.137 mmol, 80 mg | C(C)(C)(C)OC(NCCNC(=S)C=1C=NC(=CC1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C26H26ClF2N3O4S2
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-(2-Aminoethyl)-6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]thionicotinamide | 0.137 mmol, 76 mg | NCCNC(C1=CN=C(C=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)=S | C21H18ClF2N3O2S2
